US07132426B2
Step 7: Preparation of 3-(4-methanesulfonyl-phenyl)-isoxazolo[4,5-d]pyrimidin-7-ol.
To a suspension of 4-amino-3-(4-methanesulfonyl-phenyl)-isoxazole-5-carboxylic acid amide (2.5 g, 8.9 mmol) in CH(OEt)3 (30 mL), was added acetic anhydride (10 mL) at ambient temperature. The reaction was heated to reflux for 5 h and cooled to room temperature. The reaction was concentrated under vacuum and poured into H2O (50 mL). The organic material was extracted with ethyl acetate(50 mL), dried over MgSO4 and concentrated under vacuum. The crude product was used for the next step without further purification. LCMS 292.0 [M+H].

reactant | 4-amino-3-(4-methanesulfonyl-phenyl)-isoxazole-5-carboxylic acid amide | 8.9 mmol, 2.5 g | NC=1C(=NOC1C(=O)N)C1=CC=C(C=C1)S(=O)(=O)C | C11H11N3O4S
reactant | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | CH(OEt)3 | 30 mL | C(OCC)(OCC)OCC | C7H16O3
product | 3-(4-methanesulfonyl-phenyl)-isoxazolo[4,5-d]pyrimidin-7-ol | CS(=O)(=O)C1=CC=C(C=C1)C1=NOC2=C1N=CN=C2O | C12H9N3O4S
